US07323447B2
To a solution of cyclopropylsulfonylamine tert-butyl carbamate (1.0 g, 4.5 mmol) dissolved in THF (30 mL) cooled to −78° C., was added n-butyllithium (6.4 mL, 10.2 mmol, 1.6M in hexane) and the reaction mixture was stirred for 1 hour. To this solution was added a neat solution of chloromethyl methyl ether (0.40 mL, 5.24 mmol), and the mixture was slowly allowed to warm to room temperature overnight. The solution pH was adjusted to 3 using 1N aqueous HCl and was then extracted with ethyl acetate (4×50 mL portions). The combined extracts were dried (MgSO4), filtered, and concentrated to afford 1-methoxymethylcyclopropylsulfonylamine tert-butylcarbamate, as a waxy solid (1.20 g, 100%) which was taken directly into the next reaction without further purification: 1H NMR (CDCl3) δ 1.03 (m, 2H), 1.52 (s, 9H), 1.66 (m, 2H), 3.38 (s, 3H), 3.68 (s, 2H), 7.54 (s, 1H); 13C NMR (CDCl3) δ 11.37, 28.29, 40.38, 58.94, 73.43, 83.61, 149.57.

reactant | cyclopropylsulfonylamine tert-butyl carbamate | 4.5 mmol, 1.0 g | C(C)(C)(C)NC(O)=O.C1(CC1)S(=O)(=O)N
reactant | n-butyllithium | 10.2 mmol, 1.6M, 6.4 mL | C(CCC)[Li]
reactant | chloromethyl methyl ether | 5.24 mmol, 0.40 mL | COCCl | C2H5ClO
reactant | HCl | 1N | Cl | ClH
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-methoxymethylcyclopropylsulfonylamine tert-butylcarbamate | C(C)(C)(C)NC(O)=O.COCC1(CC1)S(=O)(=O)N | InChI=1S/C5H11NO3S.C5H11NO2/c1-9-4-5(2-3-5)10(6,7)8;1-5(2,3)6-4(7)8/h2-4H2,1H3,(H2,6,7,8);6H,1-3H3,(H,7,8)
